US06326501B1
To a three-necked round bottom flask was charged 3-indolecarboxylic acid (2.5 g, 15.51 mmol), potassium carbonate (powder, 1.25 g), N,N-dimethylformamide (20 mL) and dimethyl carbonate (3.9 mL, 46.3 mmol). As the stirred mixture was heated to reflux (130° C.), the disappearance of starting indole was monitored by HPLC. After 5 h the reaction was complete, then the mixture was cooled to room temperature and was partitioned between water (50 mL) and tert-butyl methyl ether (100 mL). The separated organic layer was washed with water (2×50 mL) and the volatiles were evaporated under reduced pressure. Purification of the obtained crude by using column chromatography over silica gel furnished 1-methylindole-3-carboxylic acid methyl ester (50% yield) and the decarboxylated byproduct 1-methylindole (45% yield).

reactant | 3-indolecarboxylic acid | 15.51 mmol, 2.5 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl carbonate | 46.3 mmol, 3.9 mL | C(OC)(OC)=O | C3H6O3
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-methylindole-3-carboxylic acid methyl ester | 50% yield | COC(=O)C1=CN(C2=CC=CC=C12)C | C11H11NO2
